US09255110B2
A solution of lithium aluminum hydride (1 M, 3 mL) was added to a cooled (0° C.) solution of 3-(2-amino-4-chloro-phenoxy)-cyclopentanecarboxylic acid ethyl ester (0.2 g) in tetrahydrofuran (5 mL) and the resulting mixture was stirred for 30 minutes. The reaction mixture was then quenched by addition of a saturated aqueous solution of ammonium chloride and filtered. The filter cake was washed with ethyl acetate and the filtrate was dried over anhydrous sodium sulfate, filtered and evaporated under reduced pressure to give 180 mg of [3-(2-amino-4-chloro-phenoxy)-cyclopentyl]-methanol without further purifications.

reactant | lithium aluminum hydride | 1 M, 3 mL | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | 3-(2-amino-4-chloro-phenoxy)-cyclopentanecarboxylic acid ethyl ester | 0.2 g | C(C)OC(=O)C1CC(CC1)OC1=C(C=C(C=C1)Cl)N | C14H18ClNO3
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
product | [3-(2-amino-4-chloro-phenoxy)-cyclopentyl]-methanol | 180 mg | NC1=C(OC2CC(CC2)CO)C=CC(=C1)Cl | C12H16ClNO2
